US06353107B1
To a solution of 15.8 g (0.086 mol) 2,2-dimethyl-6,6-diethyl-4-oxopiperidine in 50 ml methanol 2.2 g (0.06 M) sodium borohydride are added in portions. The temperature is kept below 30° C. After stirring over night methanol is removed under vacuum and the residue is diluted with 20 ml 2N—NaOH. The solution is extracted with ethylacetate. The combined extracts are washed with saturated NaCl solution, dried over MgSO4 and dried under vacuum at 60° C./50 mbar until a constant weight is achieved. 15.8 g (99%) 2,2-dimethyl-6,6-diethyl-4-hydroxypiperidine are obtained as yellowish oil.

reactant | 2,2-dimethyl-6,6-diethyl-4-oxopiperidine | 0.086 mol, 15.8 g | CC1(NC(CC(C1)=O)(CC)CC)C | C11H21NO
solvent | methanol | 0.06 M, 50 ml, 2.2 g | CO | CH4O
product | 2,2-dimethyl-6,6-diethyl-4-hydroxypiperidine | 15.8 g, 99% | CC1(NC(CC(C1)O)(CC)CC)C | C11H23NO
